US05026856
7-(2-isoindolinyl)-1-cyclopropyl-5(2-hydroxyethylamino)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
205 mg of 1-cyclopropyl-5(2-hydroxyethylamino)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 119 mg of isoindoline, 182 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 113 mg of the target compound.

reactant | 1-cyclopropyl-5(2-hydroxyethylamino)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 205 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)NCCO)=O)C(=O)O | C15H13F3N2O4
reactant | isoindoline | 119 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | DBU | 182 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(2-isoindolinyl)-1-cyclopropyl-5(2-hydroxyethylamino)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 113 mg | C1N(CC2=CC=CC=C12)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)NCCO)F | C23H21F2N3O4
